US05006548
Preparation of ethyl 2-[3-(2-furyl)acrylamido]benzoate (Process b)
Under nitrogen stream, 2-chloro-1-methylpyridinium iodide (1.272 g, 4.34 mmol) was suspended in dry methylene chloride (5 ml). To the suspension a solution of 3-(2-furyl)acrylic acid (500 mg, 3.62 mmol), triethylamine (1.2 ml, 8.69 mmol), and ethyl 2-aminobenzoate (0.53 ml, 3.62 mmol) in dry methylene chloride (5 ml) was added. The mixture was heated under reflux for 40 hours. Then, the reaction mixture was diluted with methylene chloride, and washed with 10% aqueous HCl, saturated aqueous sodium chloride, 1N-aqueous NaOH, and saturated aqueous sodium chloride successively, and dried. Removal of solvent gave a viscous oil, which, on washing with n-hexane gave white solids of the title compound (312 mg, yield: 30.2%), which was recrystallized from methanol. m.p., 85°-86° C.

reactant | 2-chloro-1-methylpyridinium iodide | 4.34 mmol, 1.272 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 3-(2-furyl)acrylic acid | 3.62 mmol, 500 mg | O1C(=CC=C1)C=CC(=O)O | C7H6O3
reactant | triethylamine | 8.69 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-aminobenzoate | 3.62 mmol, 0.53 ml | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[3-(2-furyl)acrylamido]benzoate | 312 mg, yield: 30.2% | O1C(=CC=C1)C=CC(=O)NC1=C(C(=O)OCC)C=CC=C1 | C16H15NO4
